US04743291
Step H: 2-[2-Chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionic acid
A stirred mixture of 1.3 g (0.0034 mole) of methyl-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionate and 1.0 g (0.018 mole) of potassium hydroxide in 15 mL of ethanol and 15 mL of water was heated at reflux for three hours. The mixture was allowed to cool to room temperature and stand for two days. The solvent was evaporated from the mixture leaving a solid. This solid was dissolved in water, and the solution was made acidic with concentrated hydrochloric acid. This solution was extracted with methylene chloride. The extract was dried over anhydrous magnesium sulfate and filtered. Evaporation of the solvent from the filtrate left 0.85 g of 2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionic acid as a solid (mp 50°-55° C.), Compound A2.

reactant | methyl-2-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionate | 0.0034 mole, 1.3 g | COC(C(C)OC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl)=O | C14H13ClF3N3O4
reactant | potassium hydroxide | 0.018 mole, 1.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 2-[2-Chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]propionic acid | ClC1=C(OC(C(=O)O)C)C=C(C(=C1)F)N1N=C(N(C1=O)C(F)F)C | C13H11ClF3N3O4
